US03935261
A solution of diisobutylaluminum hydride (19.3 g., 0.125 mole) in benzene (170 ml.) was added, with rapid stirring, to a solution of 2-(6-hydroxyhexyl)-3-oxocyclopentanecarbonitrile (8.8 g., 0.042 mole) in dry diethyl ether (200 ml.) at 10°-15°C. Stirring at ambient temperature was continued for 15 minutes and the mixture was added to 2N aqueous acetic acid (170 ml.) at a temperature lower than 15°C. The organic phase was separated and the aqueous layer was extracted with diethyl ether. The combined organic phases were washed with aqueous sodium bicarbonate, dried over magnesium sulphate and the solvents were removed in vacuo to give crude 3-hydroxy-2-(6-hydroxyhexyl)cyclopentanecarbaldehyde (8.6 g.). It was used without further purification.

reactant | diisobutylaluminum hydride | 0.125 mole, 19.3 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-(6-hydroxyhexyl)-3-oxocyclopentanecarbonitrile | 0.042 mole, 8.8 g | OCCCCCCC1C(CCC1=O)C#N | C12H19NO2
reactant | acetic acid | 2N, 170 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-hydroxy-2-(6-hydroxyhexyl)cyclopentanecarbaldehyde | 8.6 g | OC1C(C(CC1)C=O)CCCCCCO | C12H22O3
